* SPICE Netlist

VDD 3 0 DC 5V  * Voltage source for simulation
I1 3 2 DC 1mA  * Current source with 1mA

*MOSFETs
M1 2 4 0 0 NMOS * NMOS: Drain=2, Gate=Vin (4), Source=0 (Ground), Body=0
M2 2 4 3 3 PMOS * PMOS: Drain=2, Gate=4, Source=3 (VDD), Body=3

*Resistor
R1 2 0 1kΩ    * Resistor: From Node 2 to Ground, 1kOhm

* Simulation commands
.end