* SPICE Netlist

VDD 3 0 DC 5V * Voltage source for simulation
I1 3 2 DC 1mA * Current source with 1mA

*MOSFETs
M1 2 4 0 0 NMOS * NMOS:
M2 2 4 3 3 PMOS * PMOS:

*Resistor
R1 2 0 1kΩ * Resistor: From Node 2 to Ground, 1kOhm

* Simulation commands
.end